*****************************************************************
* NXP PSMN5R0_100PS
*
* Polarity N-Channel
* Ratings 100V/5.00E-03OHMS/25A
*
* Date Created Sun May 15 03:41:46 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN5R0_100PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.04498779724731e-09
RLS2 SOURCE 8 5.13961057116334
RLS1 8 7 0.000694987797247309

RDS 7 4 10000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00348434878302034 TC=0.0144374358353599,-2.31839842837862e-05
RBD 9 4 0.000432208914177534 TC=0.0144374358353599,-2.31839842837862e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 9.06768818052706e-09
RG 1 2 0.897840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	8900
+ -10	8855
+ -5	8726
+ -2	6620
+ -1	5246
+ -0.5	4365
+ -0.2	3729
+ -0.1	3512
+ 0	3313
+ 0.1	3032
+ 0.2	2819
+ 0.5	2436
+ 1	2069
+ 2	1530
+ 5	1011
+ 10	776.5
+ 12	716.5
+ 20	571.6
+ 25	517.5
+ 50	380



.MODEL MINT NMOS(Vto=4.19115440356862 Kp=1.1046e+03 Nfs=820000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=500)

.MODEL DBD D(Bv=113.00 Ibv=2.50E-04 Rs=1E-6 Is=4.41424726229437e-12
+ N=1 M=0.57 VJ=0.55 Fc=0.5 Cjo=3.642e-09 Tt=7.5e-08)

.ENDS

